US05550139
A solution of N-chlorosuccinimide (1.1 g; 8.25 mmol) and phenyl-(2-fluoroethyl)sulfide (1.28 g; 8.25 mmol) in 25 mL methylene chloride was stirred for 0.5 h at room temperature. Methylene chloride (25 mL) was added to the reaction mixture and washed with water (2×35 mL). The organic layer was dried and evaporated to yield 1.48 g phenyl-(1-chloro-2-fluoroethyl)sulfide as an oily material which was mixed with 6 (2.23 g; 9.9 mmol), triethylamine (1.0 g; 9.9 mmol) and dry acetonitrile (30 mL) and refluxed for 5 h. The solvent was removed in vacuo and the residue was dissolved in methylene chloride (75 mL) and washed with water (50 mL), 5% aqueous sodium bicarbonate (50 mL) and 5% hydrochloric acid (50 mL). The organic layer was dried over anhydrous sodium sulfate and the solvent removed, leaving a crude product (2.78 g). The crude product was purified by flash chromatography using hexane/methylene chloride as the eluting solvent, mp 73°-74° C. (1.92 g; 62% yield). 1H NMR: δ 2.80-2.98(m, 1H), 3.2-3.45(m,4H), 4.6-4.8(m, 1H), 4.82-5.10(m, 1H), 5.45(m, 1H), 7.1-7.35(m,3H), 7.5-7.65(m,2H).

reactant | N-chlorosuccinimide | 8.25 mmol, 1.1 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | phenyl-(2-fluoroethyl)sulfide | 8.25 mmol, 1.28 g | C1(=CC=CC=C1)SCCF | C8H9FS
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | phenyl-(1-chloro-2-fluoroethyl)sulfide | 1.48 g | C1(=CC=CC=C1)SC(CF)Cl | C8H8ClFS
